US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-1,3-benzodiazepin-2-on-3-yl]-3-[N-methyl-N-(7-methoxy-1,2,3,4 -tetrahydronaphth-2-yl)-amino]-propane
Here, 1-[2-(2-amino-4,5-dimethoxy-phenyl)-ethyl amino]-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydro naphth 2-yl)-amino]-propane (2.0 g, 0.005 mol) and N,N'-carbonyldiimidazole (1 g, 0.006 mol) are reflxed for 60 minutes in absolute ethyl acetate (40 ml). After extraction with saturated potassium carbonate solution and with water, the product which has been evaporated in vacuo is dissolved in methylene chloride and precipitated with petroleum ether. yield: 1.2 g. Mp: 163°-165° C.

reactant | 1-[2-(2-amino-4,5-dimethoxy-phenyl)-ethyl amino]-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydro naphth 2-yl)-amino]-propane | 0.005 mol, 2.0 g | NC1=C(C=C(C(=C1)OC)OC)CCNCCCN(C1CC2=CC(=CC=C2CC1)OC)C | C25H37N3O3
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-1,3-benzodiazepin-2-on-3-yl]-3-[N-methyl-N-(7-methoxy-1,2,3,4 -tetrahydronaphth-2-yl)-amino]-propane | COC=1C(=CC2=C(CCN(C(N2)=O)CCCN(C2CC3=CC(=CC=C3CC2)OC)C)C1)OC | C26H35N3O4
